US07884101B2
To a clear solution of 3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenylamine (60.1 g, 178 mmol) in a mixture of n-propanol/ethyl acetate (600/200 mL) at 30-35° C. was added 3-trifluoromethyl benzoyl chloride slowly with stirring. The reaction mixture became turbid initially and solids were separated after the mixture was stirred at ambient temperature for 3 to 5 hours. The solids were filtered, washed with ii-propanol, and dried in vacuo at 40° C. overnight to produce N-[3-(4-Chloro-2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenyl]-3-trifluoromethyl-benzamide as a white solid in 72% yield (as the HCl salt). LCMS m/z (%)=509 (M+H 35Cl, 100), 511 (M+H37Cl, 33) 1H NMR (400 MHz, DMSO-d6) δ: 10.7 (bs, 1H), 8.39-8.44 (m, 2H), 8.01 (d, J=2.61 Hz, 1H), 7.98 (s, 1H), 7.75-7.83 (m, 2H), 7.69 (s, 1H), 7.35 (d, J=9.01, 1H), 4.45-4.65 (m, 2H), 3.79-3.89 (m, 4H), 3.69 (s, 3H), 3.36-3.53 (m, 4H with water), 3.05-3.25 (m, 2H), 2.99-3.05 (m, 2H).

reactant | 3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenylamine | 178 mmol, 60.1 g | ClC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCOCC1)N | C16H21ClN4O2
reactant | 3-trifluoromethyl benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | n-propanol ethyl acetate | 200 mL | C(CC)O.C(C)(=O)OCC
product | N-[3-(4-Chloro-2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenyl]-3-trifluoromethyl-benzamide | ClC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN1CCOCC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C24H24ClF3N4O3
